US08278320B2
In a flask was added 6-chloro-5-methoxypyrimidin-4-amine (500 mg, 3.13 mmol) and pyrrolidine (0.523 ml, 6.27 mmol) in toluene (5 ml). The reaction was heated to 80 C for 16 hours and then cooled to room temperature. The reaction was then concentrated to a white solid to give 5-methoxy-6-(pyrrolidin-1-yl)pyrimidin-4-amine (514 mg, 84% yield). LC/MS R.T.=1.25 mins (M+H=195.2).

reactant | 6-chloro-5-methoxypyrimidin-4-amine | 3.13 mmol, 500 mg | ClC1=C(C(=NC=N1)N)OC | C5H6ClN3O
reactant | pyrrolidine | 6.27 mmol, 0.523 ml | N1CCCC1 | C4H9N
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 5-methoxy-6-(pyrrolidin-1-yl)pyrimidin-4-amine | 514 mg, 84% yield | COC=1C(=NC=NC1N1CCCC1)N | C9H14N4O
